US05756522
Sodium hydroxide (3.3 g) was added to a mixture of 1-(2,6-dichloro-4-trifluoromethylphenyl)-3-mercapto-1,2,4-triazole (0.32 g, 1 mmol), 1,4-dioxane (13 ml) and water (13 ml) at one time with blowing thereinto chlorodifluoromethane gas. The temperature rose to 60°-70° C. After the rise of temperature stopped, the mixture was cooled to room temperature and poured into water. Ethyl acetate was added and the organic layer was separated and washed with saturated aqueous sodium chloride solution. The organic layer was dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The obtained residue was subjected to silica gel chromatography to give 0.29 g of 1-(2,6-dichloro-4-trifluoromethylphenyl)-3-difluoromethylsulfenyl-1,2,4-triazole.

reactant | Sodium hydroxide | 3.3 g | [OH-].[Na+]
reactant | 1-(2,6-dichloro-4-trifluoromethylphenyl)-3-mercapto-1,2,4-triazole | 1 mmol, 0.32 g | ClC1=C(C(=CC(=C1)C(F)(F)F)Cl)N1N=C(N=C1)S | C9H4Cl2F3N3S
reactant | 1,4-dioxane | 13 ml | O1CCOCC1 | C4H8O2
reactant | chlorodifluoromethane | ClC(F)F | CHClF2
solvent | Ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
solvent | water | 13 ml | O | H2O
product | 1-(2,6-dichloro-4-trifluoromethylphenyl)-3-difluoromethylsulfenyl-1,2,4-triazole | 0.29 g | ClC1=C(C(=CC(=C1)C(F)(F)F)Cl)N1N=C(N=C1)SC(F)F | C10H4Cl2F5N3S
